* C:\users\julian\Documents\uni\tc2\repositorio\tp_lab_1\sim\tplab1tc2_imp.asc
* Generated by LTspice 24.1.10 for Windows.
R1 N003 N002 101
R2 N003 0 101
R3 N001 N004 1416
C1 N001 N003 99.7n
C2 N004 N003 103.3n
V1 N002 0 AC 1
V2 +Vcc 0 12
V3 0 -Vcc 12
X§U1 N004 0 +Vcc -Vcc N001 NC_01 NC_02 NE5534 ;§pnba 1)2)3)4)5)6)7
.inc sim_directive.txt
.lib C:\users\julian\Documents\uni\tc2\repositorio\tp_lab_1\sim\NE5534.301
.backanno
.end
